US04410528
In this reference example, 14.8 g of 1-benzyl-4-[N-(2-nitrophenyl)-N-acetylamino]-piperidine hydrobromide obtained in the same manner as that of Refernce Example 4, 250 ml of methanol and 1.0 g of 5% palladium carbon are mixed and stirred at room temperature under the atmospheric pressure in the current of hydrogen for 12 hours. The resultant reaction mixture is filtered. The filtrate is mixed with 29 ml of concentrated hydrochloric acid and stirred overnight. The reaction solution is concentrated and the residue is dissolved in 50 ml of water. The solution is adjusted to pH 11.0 with 1 N aqueous sodium hydroxide. The solution is extracted with 50 ml of chloroform three times, and the extract is washed with 20 ml of a saturated aqueous sodium chloride and dried. The extract is freed from the solvent by distillation. The residue is mixed with n-hexane and stirred for crysallization. The crystals are separated by filtration, recrystallized from a mixed solvent of n-hexane and ethanol to obtain 6.7 g of 4-(2-methyl-benzimidazol-3-yl)-piperidine.

reactant | 1-benzyl-4-[N-(2-nitrophenyl)-N-acetylamino]-piperidine hydrobromide | 14.8 g | Br.C(C1=CC=CC=C1)N1CCC(CC1)N(C(C)=O)C1=C(C=CC=C1)[N+](=O)[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 1.0 g | [C].[Pd]
solvent | methanol | 250 ml | CO | CH4O
product | 4-(2-methyl-benzimidazol-3-yl)-piperidine | 6.7 g | CC=1N(C2=C(N1)C=CC=C2)C2CCNCC2 | C13H17N3
